### PR TITLE
[Merged by Bors] - refactor(Algebra): Define the center appropriately for non-associative algebras

### PR DESCRIPTION
**Pull request by mans0954**
For a sensible theory, we require that the centre of an algebra is closed under multiplication. The definition currently in Mathlib works for associative algebras, but not non-associative algebras. This PR uses the definition from Cabrera García and Rodríguez Palacios, which works for any multiplication (addition) and which coincides with the current definition in the associative case.

I did consider whether the centralizer should also be re-defined in terms of operator commutation, but this still results in a centralizer which is not closed under multiplication in the non-associative case. I have therefore retained the current definition, but changed `centralizer_eq_top_iff_subset` and `centralizer_univ` to only work in the associative case.

---

- [x] depends on: #8147

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Subsemigroup/Center.lean [hunk 1]
```diff
@@ -20,79 +20,169 @@ import Mathlib.GroupTheory.Subsemigroup.Operations
...
   Iff.rfl
 #align set.mem_center_iff Set.mem_center_iff
 #align set.mem_add_center Set.mem_addCenter_iff
 
-instance decidableMemCenter [Mul M] [∀ a : M, Decidable <| ∀ b : M, b * a = a * b] :
+variable {M}
+
+@[to_additive]
+theorem _root_.Subsemigroup.mem_center_iff [Semigroup M] {z : M} :
+    z ∈ Set.center M ↔ ∀ g, g * z = z * g := by
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subsemigroup/Center.lean:77]: This lemma is mis-named, it's not about `Subsemigroup` at all.

Comment (eric-wieser) [reply Mathlib/GroupTheory/Subsemigroup/Center.lean:77]: Did you mean
```suggestion
theorem _root_.Semigroup.mem_center_iff [Semigroup M] {z : M} :
    z ∈ Set.center M ↔ ∀ g, g * z = z * g := by
```

File: Mathlib/GroupTheory/Subsemigroup/Center.lean [hunk 2]
```diff
@@ -20,79 +20,169 @@ import Mathlib.GroupTheory.Subsemigroup.Operations
...
+    · intros _ _
+      rw [mul_assoc]
+    · intros _ _
+      rw [mul_assoc]
+#align subsemigroup.mem_center_iff Subsemigroup.mem_center_iff
+#align add_subsemigroup.mem_center_iff AddSubsemigroup.mem_center_iff
+
+variable (M)
+
+instance decidableMemCenter [Mul M] [∀ a : M, Decidable <| IsMulCentral a] :
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subsemigroup/Center.lean:95]: This is going to be useless, because there are no `Decidable` instances about `IsMulCentral a`. You should either:
* Leave it for only the `Semigroup` case for now, perhaps with a TODO comment
* Add an `instance : Decidable (IsMulCentral a)` that takes `[∀ a : M, Decidable <| ∀ b : M, b * a = a * b]` and three other decidable arguments

I doubt the second option is worth the effort, but the first option is easy and more useful than what you haev here.

Comment (mans0954) [reply Mathlib/GroupTheory/Subsemigroup/Center.lean]: Okay, I've done the first option.

File: Mathlib/GroupTheory/Subsemigroup/Center.lean [hunk 3]
```diff
@@ -207,13 +240,19 @@ theorem center_units_eq [GroupWithZero M] : Set.center Mˣ = ((↑) : Mˣ → M)
 
 @[simp]
 theorem units_inv_mem_center [Monoid M] {a : Mˣ} (ha : ↑a ∈ Set.center M) :
-    ↑a⁻¹ ∈ Set.center M :=
-  (Commute.units_inv_right <| ha ·)
+    ↑a⁻¹ ∈ Set.center M := by
+  rw [Semigroup.mem_center_iff] at *
+  intro m
+  rw [Commute.units_inv_right]
+  exact ha m
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subsemigroup/Center.lean:247]: I think the old proof
```suggestion
  exact (Commute.units_inv_right <| ha ·)
```
would work here

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Mathlib/Algebra/Star/Center.lean [hunk 4]
```diff
@@ -12,9 +12,27 @@ import Mathlib.Algebra.Star.Pointwise
...
+  comm := by simpa only [star_mul, star_star] using fun g =>
+    congr_arg star (((Set.mem_center_iff R).mp ha).comm <| star g).symm
+  left_assoc := fun b c => calc
+    star a * (b * c) = star a * (star (star b) * star (star c)) := by rw [star_star, star_star]
+    _ = star a * star (star c * star b) := by rw [star_mul]
+    _ = star ((star c * star b) * a) := by rw [← star_mul]
+    _ = star (star c * (star b * a)) := by rw [ha.right_assoc]
+    _ = star (star b * a) * c := by rw [star_mul, star_star]
+    _ = (star a * b) * c := by rw [star_mul, star_star]
+  mid_assoc := fun b c => calc
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/Center.lean:25]: style nit:
```suggestion
  mid_assoc b c := calc
```
(and in a few other places)

File: Mathlib/GroupTheory/Subsemigroup/Center.lean [hunk 5]
```diff
@@ -23,92 +23,213 @@ import Mathlib.Data.Int.Cast.Lemmas
 
 We provide `Submonoid.center`, `AddSubmonoid.center`, `Subgroup.center`, `AddSubgroup.center`,
 `Subsemiring.center`, and `Subring.center` in other files.
+
+## References
+
+* [Cabrera García and Rodríguez Palacios, Non-associative normed algebras. Volume 1]
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subsemigroup/Center.lean:29]: Can you add this to references.bib?

File: Mathlib/GroupTheory/Submonoid/Center.lean [hunk 6]
```diff
@@ -104,8 +105,18 @@ equivalence in general; one case when it is is for groups with zero, which is co
 `centerUnitsEquivUnitsCenter`. -/
 @[to_additive (attr := simps! apply_coe_val)
   "For an additive monoid, the units of the center inject into the center of the units."]
-def unitsCenterToCenterUnits [Monoid M] : (Submonoid.center M)ˣ →* Submonoid.center (Mˣ) :=
-  (Units.map (Submonoid.center M).subtype).codRestrict _ <| fun u r ↦ Units.ext <| u.1.prop r
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Submonoid/Center.lean:108]: Is this construction salvageable?

File: Mathlib/GroupTheory/Subsemigroup/Center.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/GroupTheory/Subsemigroup/Center.lean:29]: Oh nevermind, I somehow missed the line below.

File: Mathlib/GroupTheory/Subsemigroup/Center.lean [hunk 7]
```diff
@@ -23,92 +23,214 @@ import Mathlib.Data.Int.Cast.Lemmas
...
+  /-- associative property for right multiplication -/
+  right_assoc (a b : M) : (a * b) * z = a * (b * z)
+
 variable (M)
 
 /-- The center of a magma. -/
 @[to_additive addCenter " The center of an additive magma. "]
 def center [Mul M] : Set M :=
-  { z | ∀ m, m * z = z * m }
+   { z | (IsMulCentral z) }
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subsemigroup/Center.lean:66]:
```suggestion
  { z | IsMulCentral z }
```

File: Mathlib/GroupTheory/Subsemigroup/Center.lean [hunk 8]
```diff
@@ -154,22 +278,52 @@ variable (M)
...
+/-- The center of a magma `M` is the set of elements that commute with everything in `M` -/
+@[to_additive
+      "The center of a magma `M` is the set of elements that commute with everything in `M`"]
+def center : Subsemigroup M where
+  carrier := Set.center M
+  mul_mem' := Set.mul_mem_center
+
+variable {M}
+
+/-- The center of a magma is commutative. -/
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subsemigroup/Center.lean:307]:
```suggestion
/-- The center of a magma is commutative and associative. -/
```

File: Mathlib/GroupTheory/Subsemigroup/Center.lean [hunk 9]
```diff
@@ -154,22 +278,52 @@ variable (M)
...
 section
 
-variable (M) [Semigroup M]
+variable (M)
 
 /-- The center of a semigroup `M` is the set of elements that commute with everything in `M` -/
 @[to_additive
       "The center of a semigroup `M` is the set of elements that commute with everything in `M`"]
-def center : Subsemigroup M where
+def center [Mul M] : Subsemigroup M where
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subsemigroup/Center.lean:326]: Isn't this now a duplicate of `Mul.center`? I think the `Subsemigroup.center` name is better, but indeed the docstring should change.

File: Mathlib/RingTheory/Subsemiring/Basic.lean
Comment (eric-wieser) [inline Mathlib/RingTheory/Subsemiring/Basic.lean:1]: Can you generalize `center` here to `NonassocSemiring`?

File: Mathlib/GroupTheory/Subsemigroup/Center.lean [hunk 10]
```diff
@@ -23,92 +23,214 @@ import Mathlib.Data.Int.Cast.Lemmas
...
+  /-- middle associative addition property -/
+  mid_assoc (a c : M) : (a + z) + c = a + (z + c)
+  /-- associative property for right addition -/
+  right_assoc (a b : M) : (a + b) + z = a + (b + z)
+
+/-- Conditions for an element to be multiplicatively central -/
+@[to_additive]
+structure IsMulCentral [Mul M] (z : M) : Prop where
+  /-- multiplication commutes -/
+  comm (a : M): z * a = a * z
```
Comment (alexjbest) [inline Mathlib/GroupTheory/Subsemigroup/Center.lean:53]:
```suggestion
  comm (a : M) : z * a = a * z
```

File: Mathlib/RingTheory/Subsemiring/Basic.lean
Comment (mans0954) [reply Mathlib/RingTheory/Subsemiring/Basic.lean:1]: Yes, done.

File: Mathlib/GroupTheory/Submonoid/Center.lean (hunk 6 above)
Comment (mans0954) [reply Mathlib/GroupTheory/Submonoid/Center.lean]: @eric-wieser I've got it to something that's much closer to the original now. I can't see a way to improve it further at the moment.

File: Mathlib/GroupTheory/Subsemigroup/Center.lean (hunk 9 above)
Comment (mans0954) [reply Mathlib/GroupTheory/Subsemigroup/Center.lean:301]: Yes, I've removed `Mul.center`.

File: Mathlib/GroupTheory/Subsemigroup/Center.lean (hunk 5 above)
Comment (mans0954) [reply Mathlib/GroupTheory/Subsemigroup/Center.lean:29]: I added the missing part in after you commented :) https://github.com/leanprover-community/mathlib4/pull/6996/commits/c2f03f7eb24303e65848f842d0b8c49d1f6ce59b

File: Mathlib/RingTheory/NonUnitalSubsemiring/Basic.lean [hunk 11]
```diff
@@ -470,25 +470,25 @@ theorem eq_top_iff' (A : NonUnitalSubsemiring R) : A = ⊤ ↔ ∀ x : R, x ∈
 section Center
 
 /-- The center of a semiring `R` is the set of elements that commute with everything in `R` -/
```
Comment (eric-wieser) [inline Mathlib/RingTheory/NonUnitalSubsemiring/Basic.lean:472]: maybe:
```suggestion
/-- The center of a semiring `R` is the set of elements that commute and associate with everything in `R` -/
```

File: Mathlib/RingTheory/Subsemiring/Basic.lean [hunk 12]
```diff
@@ -717,25 +718,24 @@ theorem eq_top_iff' (A : Subsemiring R) : A = ⊤ ↔ ∀ x : R, x ∈ A :=
 
 section Center
 
-/-- The center of a semiring `R` is the set of elements that commute with everything in `R` -/
-def center (R) [Semiring R] : Subsemiring R :=
-  { Submonoid.center R with
-    carrier := Set.center R
-    zero_mem' := Set.zero_mem_center R
-    add_mem' := Set.add_mem_center }
+/-- The center of a non-associative semiring `R` is the set of elements that commute with everything
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Subsemiring/Basic.lean:721]:
```suggestion
/-- The center of a non-associative semiring `R` is the set of elements that commute and associate with everything
```

File: Mathlib/GroupTheory/Subsemigroup/Centralizer.lean [hunk 13]
```diff
@@ -121,22 +121,24 @@ theorem centralizer_subset [Mul M] (h : S ⊆ T) : centralizer T ⊆ centralizer
...
 #align set.add_center_subset_add_centralizer Set.addCenter_subset_addCentralizer
 
 @[to_additive (attr := simp) addCentralizer_eq_top_iff_subset]
-theorem centralizer_eq_top_iff_subset {s : Set M} [Mul M] :
-    centralizer s = Set.univ ↔ s ⊆ center M :=
-  eq_top_iff.trans <| ⟨fun h _ hx _ => (h trivial _ hx).symm, fun h x _ _ hm => (h hm x).symm⟩
+theorem centralizer_eq_top_iff_subset {s : Set M} [Semigroup M] :
+    centralizer s = Set.univ ↔ s ⊆ center M := eq_top_iff.trans <|
+    ⟨ (fun h _ hx => Semigroup.mem_center_iff.mpr (fun _ => by rw [(h trivial _ hx)])),
+    (fun h _ _ _ hm => (h hm).comm _)⟩
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subsemigroup/Centralizer.lean:132]: This indent is pretty weird, and there are way too many parens here! I think it would be better as
```suggestion
    centralizer s = Set.univ ↔ s ⊆ center M :=
  eq_top_iff.trans <| ⟨
    fun h _ hx => Semigroup.mem_center_iff.mpr fun _ => by rw [h trivial _ hx],
    fun h _ _ _ hm => (h hm).comm _⟩
```

File: Mathlib/RingTheory/NonUnitalSubring/Basic.lean
Comment (eric-wieser) [inline Mathlib/RingTheory/NonUnitalSubring/Basic.lean:1]: Can you generalize to non-associativity in this file too?

File: Mathlib/GroupTheory/Subsemigroup/Center.lean [hunk 14]
```diff
@@ -181,22 +295,31 @@ def center : Subsemigroup M where
...
-  decidable_of_iff' _ mem_center_iff
+  decidable_of_iff' _ Semigroup.mem_center_iff
 #align subsemigroup.decidable_mem_center Subsemigroup.decidableMemCenter
 #align add_subsemigroup.decidable_mem_center AddSubsemigroup.decidableMemCenter
 
 /-- The center of a semigroup is commutative. -/
 @[to_additive "The center of an additive semigroup is commutative."]
 instance center.commSemigroup : CommSemigroup (center M) :=
-  { MulMemClass.toSemigroup (center M) with mul_comm := fun _ b => Subtype.ext <| b.2 _ }
+  { MulMemClass.toSemigroup (center M) with mul_comm := fun a _ => Subtype.ext <| a.2.comm _ }
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subsemigroup/Center.lean:322]: This instance is a duplicate of the one above, right? I think it can be deleted.

File: Mathlib/GroupTheory/Subsemigroup/Center.lean [hunk 15]
```diff
@@ -301,25 +301,23 @@ instance [Mul M] : CommSemigroup (center M) where
...
+instance decidableMemCenter [Semigroup M] (a) [Decidable <| ∀ b : M, b * a = a * b] : Decidable (a ∈ center M) :=
   decidable_of_iff' _ Semigroup.mem_center_iff
 #align subsemigroup.decidable_mem_center Subsemigroup.decidableMemCenter
 #align add_subsemigroup.decidable_mem_center AddSubsemigroup.decidableMemCenter
 
-/-- The center of a semigroup is commutative. -/
-@[to_additive "The center of an additive semigroup is commutative."]
-instance center.commSemigroup : CommSemigroup (center M) :=
-  { MulMemClass.toSemigroup (center M) with mul_comm := fun a _ => Subtype.ext <| a.2.comm _ }
+/-- The center of a magma is commutative. -/
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subsemigroup/Center.lean:318]: I think it makes sense to move this further up the file to avoid needing to swap back and forth.

File: Mathlib/GroupTheory/Subsemigroup/Center.lean [hunk 16]
```diff
@@ -164,12 +278,12 @@ namespace Subsemigroup
 
 section
 
-variable (M) [Semigroup M]
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subsemigroup/Center.lean:167]: I think things would be clearer with a separate `section Semigroup` and `section Mul`. Same in all the other `Center` files.

File: Mathlib/GroupTheory/Subsemigroup/Center.lean (hunk 14 above)
Comment (mans0954) [reply Mathlib/GroupTheory/Subsemigroup/Center.lean]: Yes, I think you're right. Done.

File: Mathlib/GroupTheory/Subsemigroup/Center.lean (hunk 16 above)
Comment (mans0954) [reply Mathlib/GroupTheory/Subsemigroup/Center.lean:167]: Fair enough. Done.

File: Mathlib/GroupTheory/Subsemigroup/Center.lean [hunk 17]
```diff
@@ -23,92 +23,216 @@ import Mathlib.Data.Int.Cast.Lemmas
...
+structure IsMulCentral [Mul M] (z : M) : Prop where
+  /-- multiplication commutes -/
+  comm (a : M) : z * a = a * z
+  /-- associative property for left multiplication -/
+  left_assoc (b c : M) : z * (b * c) = (z * b) * c
+  /-- middle associative multiplication property -/
+  mid_assoc (a c : M) : (a * z) * c = a * (z * c)
+  /-- associative property for right multiplication -/
+  right_assoc (a b : M) : (a * b) * z = a * (b * z)
+
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subsemigroup/Center.lean:60]: Can you add the theorem `IsMulCentral.left_comm` and `.right_comm` here to match `Commute.right_comm`? I think it will shorten some proofs.

File: Mathlib/GroupTheory/Subsemigroup/Center.lean (hunk 15 above)
Comment (mans0954) [reply Mathlib/GroupTheory/Subsemigroup/Center.lean]: Hopefully I've now done what you wanted here. The flip side is that we now toggle in and out of namespaces.

File: Mathlib/RingTheory/NonUnitalSubring/Basic.lean
Comment (mans0954) [reply Mathlib/RingTheory/NonUnitalSubring/Basic.lean:1]: Done in this commit https://github.com/leanprover-community/mathlib4/pull/6996/commits/cde599ec206b40ab24ac54fec01a92e5f35b08ae

File: Mathlib/GroupTheory/Subsemigroup/Center.lean (hunk 17 above)
Comment (mans0954) [reply Mathlib/GroupTheory/Subsemigroup/Center.lean:58]: Like this? https://github.com/leanprover-community/mathlib4/pull/6996/commits/1ae3734783e49a1d70a9687196d0775c85136c54

File: Mathlib/GroupTheory/Submonoid/Center.lean [hunk 18]
```diff
@@ -50,9 +52,20 @@ theorem center_toSubsemigroup : (center M).toSubsemigroup = Subsemigroup.center
 
 variable {M}
 
+/-- The center of a multiplication with unit is commutative and associative. -/
+instance center.commMonoid : CommMonoid (center M) :=
+  { (center M).toMulOneClass, Subsemigroup.center.commSemigroup with }
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Submonoid/Center.lean:57]: We have a bit of a problem here; this forms an instance diamond:
```lean
example : center.commMonoid.toMonoid = (center M).toMonoid := rfl -- fails due to npow not matching
```
Perhaps the thing to do is make this a def, and for now only have the int

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean [hunk 19]
```diff
@@ -76,6 +76,11 @@ instance instNonUnitalSubsemiringClass : NonUnitalSubsemiringClass (NonUnitalSub
 instance instSMulMemClass : SMulMemClass (NonUnitalSubalgebra R A) R A where
   smul_mem := @fun s => s.smul_mem'
 
+instance instNonUnitalSubringClass {R : Type u} {A : Type v} [CommRing R] [NonUnitalNonAssocRing A]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean:79]: This should be deleted, it's leftover from a tricky merge

**Comment by eric-wieser** [comment]
There's a new lemma that came in with the merge, that will need its statement updating

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean (hunk 19 above)
Comment (mans0954) [reply Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean]: Done.

**Comment by mans0954** [comment]
> There's a new lemma that came in with the merge, that will need its statement updating

Done.

**Review by eric-wieser — APPROVED** [review]
maintainer merge

I've looked at this too long and pushed too many tweaks to be comfortable merging it. Let's give someone else a few days to take a look, just in case I've missed something.

File: Mathlib/LinearAlgebra/Basis.lean [hunk 20]
```diff
@@ -1397,14 +1397,43 @@ end Induction
...
     [Semiring R] [NonUnitalNonAssocSemiring A]
-    [Module R A] [SMulCommClass R A A] [IsScalarTower R A A]
-    (b : Basis ι R A) {x : A} :
-    x ∈ Set.center A ↔ ∀ i, Commute (b i) x := by
+    [Module R A] [SMulCommClass R A A] [SMulCommClass R R A] [IsScalarTower R A A]
+    (b : Basis ι R A) {z : A} :
+    z ∈ Set.center A ↔ (∀ i, Commute (b i) z) ∧ ∀ i j,
+    z * (b i * b j) = (z * b i) * b j
+    ∧ (b i * z) * b j = b i * (z * b j)
+    ∧ (b i * b j) * z = b i * (b j * z) := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Basis.lean:1405]: Formatting is a bit weird here:
```suggestion
    z ∈ Set.center A ↔
      (∀ i, Commute (b i) z) ∧ ∀ i j,
        z * (b i * b j) = (z * b i) * b j
          ∧ (b i * z) * b j = b i * (z * b j)
          ∧ (b i * b j) * z = b i * (b j * z) := by
```

File: Mathlib/LinearAlgebra/Basis.lean [hunk 21]
```diff
@@ -1397,14 +1397,43 @@ end Induction
...
+  · intro h;
+    constructor
+    · intro i
+      apply (h.1 (b i)).symm
+    · intros
+      exact ⟨h.2 _ _, ⟨h.3 _ _, h.4 _ _⟩⟩
+  · intro h
+    rw [center, mem_setOf_eq]
+    constructor
+    · intro y
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Basis.lean:1416]: Can you use the `case` tactic to name these goals?

**Comment by eric-wieser** [comment]
!bench

File: Mathlib/GroupTheory/Submonoid/Center.lean (hunk 18 above)
Comment (mans0954) [reply Mathlib/GroupTheory/Submonoid/Center.lean]: I think you've resolved this now? (See also [Zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.236996.20Define.20the.20centre.20.2E.2E.2E.20for.20non-associative.20algebras) )

File: Mathlib/LinearAlgebra/Basis.lean (hunk 21 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/Basis.lean]: Done, thanks.

File: Mathlib/GroupTheory/Nilpotent.lean [hunk 22]
```diff
@@ -152,7 +152,13 @@ theorem upperCentralSeries_one : upperCentralSeries G 1 = center G := by
...
   simp only [upperCentralSeries, upperCentralSeriesAux, upperCentralSeriesStep, center, Set.center,
     mem_mk, mem_bot, Set.mem_setOf_eq]
-  exact forall_congr' fun y => by rw [mul_inv_eq_one, mul_inv_eq_iff_eq_mul, eq_comm]
+  constructor
+  · intro h
+    rw [← Set.mem_center_iff, Semigroup.mem_center_iff]
+    intro g
+    rw [eq_comm, ← mul_inv_eq_iff_eq_mul, ← mul_inv_eq_one, ← h g]
+  · intro h g
+    rw [mul_inv_eq_one, mul_inv_eq_iff_eq_mul, h.comm]
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/Nilpotent.lean:161]: Since we're working with an associative `Group G` anyway, we can keep the old proof. Or is this purposefully more complicated for a potential nonassociative generalization?
```lean
  ext
  simp only [upperCentralSeries, upperCentralSeriesAux, upperCentralSeriesStep,
    Subgroup.mem_center_iff, mem_mk, mem_bot, Set.mem_setOf_eq]
  exact forall_congr' fun y => by rw [mul_inv_eq_one, mul_inv_eq_iff_eq_mul, eq_comm]
```

File: Mathlib/GroupTheory/Submonoid/Center.lean [hunk 23]
```diff
@@ -23,13 +23,15 @@ other files.
...
 
-variable (M : Type*) [Monoid M]
+variable (M : Type*) [MulOneClass M]
 
-/-- The center of a monoid `M` is the set of elements that commute with everything in `M` -/
+/-- The center of a multiplication with unit `M` is the set of elements that commute with everything
+in `M` -/
 @[to_additive
-      "The center of a monoid `M` is the set of elements that commute with everything in `M`"]
+      "The center of a addition with zero `M` is the set of elements that commute with everything in
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/Submonoid/Center.lean:33]:
```suggestion
      "The center of an addition with zero `M` is the set of elements that commute with everything in
```

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/GroupTheory/Nilpotent.lean (hunk 22 above)
Comment (mans0954) [reply Mathlib/GroupTheory/Nilpotent.lean]: The original proof seems to work now so I have re-instated it. I think it didn't work for me in an earlier draft, but probably something else has been fixed in the meantime.

Comment (mans0954) [reply Mathlib/GroupTheory/Nilpotent.lean]: I've re-instated the old proof (with `center, Set.center,` replaced with `Subgroup.mem_center_iff` in `simp only` as you suggest).
